US07842685B2
A mixture of 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(1-cyclobutyl-cyclopropyl)-thiazolo[5,4-b]pyridine (85.7 mg, 0.209 mmol) and hydrochloric acid (5.0N, aq.) (2.00 mL, 10.02 mmol) in THF (4.0 mL) was stirred at 65° C. for 3 h. The reaction mixture was then cooled on an ice bath, and NaOH (5.0N, aq., 2.0 mL) was added. THF was removed in vacuo, and the resulting mixture was partitioned between EtOAc and water. The organic layer was separated, sequentially washed with water and brine, dried over sodium sulfate, filtered, and concentrated in vacuo. Chromatographic purification of the residue (silica gel, 0-30% EtOAc/hexanes) furnished 4-(5-(1-cyclobutylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)-3-fluorobenzaldehyde as a light yellow solid. MS (ESI) m/z: Calculated: 352.1; Observed: 353.1 (M++1).

reactant | 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(1-cyclobutyl-cyclopropyl)-thiazolo[5,4-b]pyridine | 0.209 mmol, 85.7 mg | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)C1(CC1)C1CCC1)F | C23H23FN2O2S
reactant | hydrochloric acid | 10.02 mmol, 5.0N, 2.00 mL | Cl | ClH
reactant | NaOH | 5.0N, 2.0 mL | [OH-].[Na+]
solvent | THF | 4.0 mL | C1CCOC1 | C4H8O
product | 4-(5-(1-cyclobutylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)-3-fluorobenzaldehyde | C1(CCC1)C1(CC1)C1=CC=C2C(=N1)SC(=N2)C2=C(C=C(C=O)C=C2)F | C20H17FN2OS
